US04493843
3-(n-Dodecyl)indole-6-carboxylic acid (16.1 g) in suspension in glacial acetic acid (200 ml), containing perchloric acid (12.2 ml; of strength (70% w/v) was hydrogenated over palladium on charcoal (1.8 g of 5% w/w) at atmospheric pressure and at a temperature of 80°-90° C. The mixture was then hot filtered through diatomaceous earth and was poured into water (1500 ml) to give an off-white solid. The solid was collected, washed with water (2×100 ml) and was dissolved in ethyl acetate (1000 ml). The ethyl acetate solution was washed with an aqueous solution of sodium carbonate (of strength 2N, 150 ml) and the organic layer was separated and was dried over magnesium sulphate. The organic solvent was removed in vacuo to give (RS)-3-(n-dodecyl)indoline-6-carboxylic acid (7.9 g), in the form of a white solid (m.p. 100°-102° C.).

reactant | 3-(n-Dodecyl)indole-6-carboxylic acid | 16.1 g | C(CCCCCCCCCCC)C1=CNC2=CC(=CC=C12)C(=O)O | C21H31NO2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 1.8 g | [Pd] | Pd
product | (RS)-3-(n-dodecyl)indoline-6-carboxylic acid | 7.9 g | C(CCCCCCCCCCC)C1CNC2=CC(=CC=C12)C(=O)O | C21H33NO2
